US07109225B2
c] 3-{4-[2-(2-tert-Butyl-5-methyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-2-isopropoxy-propionic acid ethyl ester
0.434 g of the above prepared 3-{4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-3-hydroxy-2-isopropoxy-propionic acid ethyl ester (0.886 mmol) was dissolved in 4.5 ml of trifluoroacetic acid, treated at 0° with 1.408 ml of triethylsilane (10 eq.) and then kept for 2 h at 0° under vigorous stirring, when TLC indicated the disappearance of starting material. The reaction mixture was then poured onto crashed ice/AcOEt/NaHCO3, the organic layer washed with water (pH of aq. phase˜8), dried over sodium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=8/2) yielded 0.322 g of the title compound as colorless oil.

reactant | 3-{4-[2-(2-tert-butyl-5-methyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-3-hydroxy-2-isopropoxy-propionic acid ethyl ester | 0.886 mmol | C(C)OC(C(C(O)C1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C(C)(C)C)OC(C)C)=O | C26H35NO6S
reactant | triethylsilane | 1.408 ml, 10 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 4.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-{4-[2-(2-tert-Butyl-5-methyl-oxazol-4-yl)-ethoxy]-benzo[b]thiophen-7-yl}-2-isopropoxy-propionic acid ethyl ester | 0.322 g | C(C)OC(C(CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C(C)(C)C)OC(C)C)=O | C26H35NO5S
